US05840732
iii) Synthesis of 3-benzyl-6-chloro-1-(3-chloropropyl)-5-phenylpyrimidine-2,4(1H,3H)-dione
To a suspension of 78.19 g (250 mmol) of 3-benzyl-6-chloro-5-phenylpyrimidine-2,4(1H,3H)-dione and 55.3 g (400 mmol) of potassium carbonate in 450 ml of N,N-dimethylformamide, 49.4 ml (500 mmol) of 1-bromo-3-chloropropane was added at room temperature. This mixture was stirred at 80° C. for 5 hours. After cooling, the reaction mixture was concentrated to dryness; the resulting residue was dissolved in chloroform-water. After the organic layer was washed with water and dried, the solvent was distilled off to yield an oily substance, which was then purified by column chromatography (eluent, n-hexane/ethyl acetate=5/1→2/1) to yield 71.89 g (73.9%, yellow oily substance) of the desired product.

reactant | 3-benzyl-6-chloro-5-phenylpyrimidine-2,4(1H,3H)-dione | 250 mmol, 78.19 g | C(C1=CC=CC=C1)N1C(NC(=C(C1=O)C1=CC=CC=C1)Cl)=O | C17H13ClN2O2
reactant | potassium carbonate | 400 mmol, 55.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 500 mmol, 49.4 ml | BrCCCCl | C3H6BrCl
solvent | N,N-dimethylformamide | 450 ml | CN(C=O)C | C3H7NO
product | 3-benzyl-6-chloro-1-(3-chloropropyl)-5-phenylpyrimidine-2,4(1H,3H)-dione | C(C1=CC=CC=C1)N1C(N(C(=C(C1=O)C1=CC=CC=C1)Cl)CCCCl)=O | C20H18Cl2N2O2
